US07034018B2
2-[(4-Bromo-phenyl)-pyrrolidin-1-yl-methyl]-1-phenyl-1H-pyrrole
The preparation was carried out in accordance with general synthesis instructions 4 from 1-phenyl-1H-pyrrole and 1-(4-bromo-benzylidene)-pyrrolidinium chloride, which had been prepared in accordance with example 4 from 4-bromobenzaldehyde and pyrrolidine.

reactant | 1-phenyl-1H-pyrrole | C1(=CC=CC=C1)N1C=CC=C1 | C10H9N
reactant | 1-(4-bromo-benzylidene)-pyrrolidinium chloride | [Cl-].BrC1=CC=C(C=[N+]2CCCC2)C=C1
reactant | 4-bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-[(4-Bromo-phenyl)-pyrrolidin-1-yl-methyl]-1-phenyl-1H-pyrrole | BrC1=CC=C(C=C1)C(C=1N(C=CC1)C1=CC=CC=C1)N1CCCC1 | C21H21BrN2
